US05071859
(R)-1-[2-[[2,2-Diphenylethenyl]oxy]ethyl]-3-piperidine carboxylic acid ethyl ester
Diphenylacetaldehyde (4.9 g, 0.025 mole) was added dropwise to a mixture of sodium hydride (1.5 g, 0.05 mole, 80% oil dispersion) and dry toluene (25 ml) at 0° C. This mixture was stirred at room temperature for 0.5 h, heated to 50° C. and allowed to cool to room temperature. The above (R)-1-(2-bromoethyl)nipecotic acid ethyl ester hydrobromide (8.6 g, 0.025 mole) was added portionwise whilst the temperature was kept below 30° C. with an ice-water bath. After being stirred for 1 h the reaction mixture was filtered, and the filtrate was evaporated to dryness. Flash chromatography of the residue on silica gel (200 g) using a mixture of heptane and tetrahydrofuran (4/1) as eluent provided the title compound (6.6 g, 69%) as an oil. Tlc: rf 0.24 (SiO2 ; heptane/THF 7/3).

reactant | Diphenylacetaldehyde | 0.025 mole, 4.9 g | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | sodium hydride | 0.05 mole, 1.5 g | [H-].[Na+]
reactant | (R)-1-(2-bromoethyl)nipecotic acid ethyl ester hydrobromide | 0.025 mole, 8.6 g | Br.C(C)OC([C@H]1CN(CCC1)CCBr)=O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-[2-[[2,2-Diphenylethenyl]oxy]ethyl]-3-piperidine carboxylic acid ethyl ester | 6.6 g, 69% | C(C)OC(=O)[C@H]1CN(CCC1)CCOC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H29NO3
